US07034039B2
To a suspension of 3-benzoylpyridin-2-carboxylic acid (2.27 g, 10 mmol) in toluene (20 ml) was added thionyl chloride (0.88 ml, 12 mmol) and the mixture was stirred at 100° C. for 2 h. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in tetrahydrofuran (20 ml). The obtained solution was added dropwise to (isobutylamino)-acetonitrile (1.68 g, 15 mmol) in N,N-dimethylacetamide (20 ml) and the mixture was stirred at 70° C. for 12 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. To a solution of the residue and acetic anhydride (1.1 ml, 12 mmol) in acetonitrile (6.0 ml, 40 mmol) at 0° C. and the mixture was stirred at room temperature for 15 h. Water was added to the reaction mixture and the mixture was stirred at room temperature for 30 min. The precipitated crystals were collected by filtration. The obtained crystals were recrystallized from tetrahydrofuran-diisopropyl ether to give 7-isobutyl-8-oxo-5-phenyl-7,8-dihydro[1,7]naphthyridine-6-carbonitrile (2.65 g, 87.5%) as crystals.

reactant | 3-benzoylpyridin-2-carboxylic acid | 10 mmol, 2.27 g | C(C1=CC=CC=C1)(=O)C=1C(=NC=CC1)C(=O)O | C13H9NO3
reactant | thionyl chloride | 12 mmol, 0.88 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (isobutylamino)-acetonitrile | 15 mmol, 1.68 g | C(C(C)C)NCC#N | C6H12N2
reactant | acetic anhydride | 12 mmol, 1.1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetonitrile | 40 mmol, 6.0 ml | C(C)#N | C2H3N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylacetamide | 20 ml | CN(C(C)=O)C | C4H9NO
solvent | Water | O | H2O
product | 7-isobutyl-8-oxo-5-phenyl-7,8-dihydro[1,7]naphthyridine-6-carbonitrile | 2.65 g, 87.5% | C(C(C)C)N1C(=C(C=2C=CC=NC2C1=O)C1=CC=CC=C1)C#N | C19H17N3O
